US08193179B2
1.i. {(3R,6S)-6-[2-(6-methoxy-[1,5]naphthyridin-4-yl)-acetyl]-tetrahydro-pyran-3-yl}-carbamic acid tert-butyl ester
To a solution of {(3R,6S)-6-[(1S)-1-hydroxy-2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethyl]-tetrahydro-pyran-3-yl}-carbamic acid tert-butyl ester (prepared as described in WO 2006/032466, 0.78 g, 1.73 mmol) cooled to −10° C. was added dropwise DIPEA (1.03 mL, 5.90 mmol). A solution of Pyr.SO3 (0.684 g, 48%, 1.1 eq.) in DMSO (2 mL) was added dropwise. The reaction mixture was stirred for 1 h 45 at 0° C. The volatiles were removed under reduced pressure and water (20 mL) was added. The resulting precipitate was filtered and further dried under HV to give a yellow solid (0.518 g, 66% yield).

reactant | {(3R,6S)-6-[(1S)-1-hydroxy-2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethyl]-tetrahydro-pyran-3-yl}-carbamic acid tert-butyl ester | 1.73 mmol, 0.78 g | C(C)(C)(C)OC(N[C@H]1CO[C@@H](CC1)[C@H](CC1=CC=NC2=CC=C(N=C12)OC)O)=O | C21H29N3O5
reactant | DIPEA | 5.90 mmol, 1.03 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Pyr | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | {(3R,6S)-6-[2-(6-methoxy-[1,5]naphthyridin-4-yl)-acetyl]-tetrahydro-pyran-3-yl}-carbamic acid tert-butyl ester | 0.518 g, 66% yield | C(C)(C)(C)OC(N[C@H]1CO[C@@H](CC1)C(CC1=CC=NC2=CC=C(N=C12)OC)=O)=O | C21H27N3O5
